US08389717B2
b) [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(2-trifluoromethyl-phenoxy)-[1,3,5]-triazin-2-yl]-amine
This compound was prepared from (4-chloro-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine and 2-hydroxybenzotrifluoride in analogy to example 3. Chromatography on silica gel using ethyl acetate as an eluent gave the title compound as a colorless solid in 33% yield.

reactant | (4-chloro-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=NC(=NC=N1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C14H13ClN6O
reactant | 2-hydroxybenzotrifluoride | OC1=C(C=CC=C1)C(F)(F)F | C7H5F3O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(2-trifluoromethyl-phenoxy)-[1,3,5]-triazin-2-yl]-amine | 33% yield | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=NC(=N1)OC1=C(C=CC=C1)C(F)(F)F | C21H17F3N6O2
